US07429665B2
2-Pyridin-4-yl-1-(4-triisopropylsilanyloxymethyl-phenyl)-ethanone
Following the procedure for the preparation of 1-(4-Benzyloxy-phenyl)-2-pyridin-4-yl-ethanone but substituting N-Methoxy-N-methyl-4-triisopropylsilanyloxymethyl-benzamide provided the title compound. MS: (M+H m/z=384.1).

reactant | 1-(4-Benzyloxy-phenyl)-2-pyridin-4-yl-ethanone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC1=CC=NC=C1)=O | C20H17NO2
reactant | N-Methoxy-N-methyl-4-triisopropylsilanyloxymethyl-benzamide | CON(C(C1=CC=C(C=C1)CO[Si](C(C)C)(C(C)C)C(C)C)=O)C | C19H33NO3Si
product | 2-Pyridin-4-yl-1-(4-triisopropylsilanyloxymethyl-phenyl)-ethanone | N1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)CO[Si](C(C)C)(C(C)C)C(C)C | C23H33NO2Si
